US05677306
The procedure is carried out as in Example 14 but starting with 0.26 g of 1-(6,7-dichloro-1-oxo-2-indanyl)imidazole-2-carboxamide, 80 ml of methanol and 20 ml of hydrochloric acid (12N). 97 mg of 6,7-dichloro-5H, 10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are thus obtained in hydrochloride form which melt at a temperature greater than 260° C. (analysis: % calculated C: 49.35, H: 2.44, Cl: 29.88, N: 13.28, % found C: 49.40, H: 2.10, Cl: 29.90, N: 13.10).

reactant | 1-(6,7-dichloro-1-oxo-2-indanyl)imidazole-2-carboxamide | 0.26 g | ClC1=CC=C2CC(C(C2=C1Cl)=O)N1C(=NC=C1)C(=O)N | C13H9Cl2N3O2
reactant | methanol | 80 ml | CO | CH4O
solvent | hydrochloride | Cl | ClH
solvent | hydrochloric acid | 12N, 20 ml | Cl | ClH
product | 6,7-dichloro-5H, 10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 97 mg | ClC1=C(C=CC=2CC3=C(NC(C=4N3C=CN4)=O)C12)Cl | C13H7Cl2N3O
